US09371320B2
B) 4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrole-2-carbaldehyde
To a solution of 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrole-2-carbaldehyde (4.51 g) in THF (79 mL) was added NBS (4.27 g) at −20° C., and the mixture was stirred at 0° C. for 6 hr. To the reaction mixture was added hexane (240 mL), the precipitate was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (5.2 g).

reactant | 1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrole-2-carbaldehyde | 4.51 g | C[Si](CCOCN1C(=CC=C1)C=O)(C)C | C11H19NO2Si
reactant | NBS | 4.27 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | hexane | 240 mL | CCCCCC | C6H14
solvent | THF | 79 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrole-2-carbaldehyde | 5.2 g | BrC=1C=C(N(C1)COCC[Si](C)(C)C)C=O | C11H18BrNO2Si
